* 4-Port Model
* In: IN+ to IN-
* Out: OUT+ to OUT-

* /home/ubuntu/coil-3d
L1 IN+ IN- -nanL Rser=0.0000000000e+00 Cpar=-nan
L1 OUT- OUT+ -nanL Rser=0.0000000000e+00 Cpar=-nan
K1 L1 L2 -nan.end
